US08466282B2
Tert-butyl (3S,5R)-3-{{({2-methoxy-6-{(4-methoxybutyl)amino}phenyl}amino)(oxo)acetyl}(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
6-Methoxy-2-(4-methoxybutylamino)aniline (210 mg), {{(3S,5R)-1-(tert-butoxycarbonyl)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl}(2-methylpropyl)amino}(oxo)acetic acid (308 mg), HOBt (97 mg) and triethylamine (370 μl) were dissolved in 1,2-dichloroethane (15 ml), WSC.HCl (430 mg) was added, and the mixture was stirred at 60° C. for 2 hr. The reaction mixture was concentrated under reduced pressure, diluted with saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (2:8)-ethyl acetate was concentrated under reduced pressure to give the object product (240 mg).

reactant | 6-Methoxy-2-(4-methoxybutylamino)aniline | 210 mg | COC1=CC=CC(=C1N)NCCCCOC | C12H20N2O2
reactant | {{(3S,5R)-1-(tert-butoxycarbonyl)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl}(2-methylpropyl)amino}(oxo)acetic acid | 308 mg | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)C(=O)N1CCOCC1)N(CC(C)C)C(C(=O)O)=O | C21H35N3O7
reactant | HOBt | 97 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 430 mg | CCN=C=NCCCN(C)C.Cl
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
solvent | triethylamine | 370 μl | C(C)N(CC)CC | C6H15N
product | Tert-butyl (3S,5R)-3-{{({2-methoxy-6-{(4-methoxybutyl)amino}phenyl}amino)(oxo)acetyl}(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 240 mg | COC1=C(C(=CC=C1)NCCCCOC)NC(C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C)=O | C33H53N5O8
